* NGSPICE file created from detronyx_12t_write_row_decode7_wl_driver_rc1.ext - technology: gf180mcuD

.subckt detronyx_12t_write_row_decode7_wl_driver_rc1 VDD VSS wdecen a[0] a[1] a[2]
+ a[3] a[4] a[5] a[6] wwl0
X0 VDD a[1] a_600_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X1 VDD a[2] a_600_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X2 VSS a[4] a_2040_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X3 VSS a_600_12884# a_4144_12840# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X4 VDD a[4] a_1896_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X5 VDD a_7944_12884# wwl0 VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X6 VDD a_5008_12840# a_4056_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X7 a_4200_12884# a_4144_12840# a_4056_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X8 VDD a_1896_12884# a_4576_12840# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X9 VDD a[3] a_1896_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X10 VSS a[2] a_1176_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X11 VSS a_4056_12884# a_6648_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X12 VDD a_600_12884# a_4144_12840# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X13 a_3336_12884# a[6] a_2904_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X14 VSS a_7944_12884# wwl0 VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X15 VDD a_4056_12884# a_6648_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X16 VDD a[5] a_2760_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X17 a_2904_12884# a[5] a_2760_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X18 VSS a_1896_12884# a_4576_12840# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X19 VSS a_6648_12884# a_7080_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X20 VDD a_2760_12884# a_5008_12840# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X21 a_4632_12884# a_4576_12840# a_4200_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X22 VDD a[6] a_2760_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X23 a_2040_12884# a[3] a_1896_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X24 VDD a_6648_12884# a_7080_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X25 a_744_12884# a[0] a_600_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X26 VDD wdecen a_2760_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X27 VDD a_7512_12884# a_7944_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X28 VSS a_7080_12884# a_7512_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X29 VDD a_4576_12840# a_4056_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X30 a_1176_12884# a[1] a_744_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X31 VSS a_2760_12884# a_5008_12840# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X32 VDD a_7080_12884# a_7512_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X33 VSS wdecen a_3336_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X34 VDD a[0] a_600_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X35 VDD a_4144_12840# a_4056_12884# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X36 VSS a_5008_12840# a_4632_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X37 VSS a_7512_12884# a_7944_12884# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
.ends

